US04551530
5-(4-Pyridyl)imidazo[1,2-a]pyrimidine, hydrochloride
A 2.0 g amount of 5-(4-pyridyl)imidazo[1,2-a]pyrimidine was suspended in 100 ml of triethylorthoformate and 1.67 ml of concentrated hydrochloric acid was added. After standing at room temperature for 6 hours the resultant precipitate was collected by filtration and gave 0.47 g of the product of the Example as a yellow solid, mp 295°-300° C.(dec.).

reactant | 5-(4-pyridyl)imidazo[1,2-a]pyrimidine | N1=CC=C(C=C1)C1=CC=NC=2N1C=CN2 | C11H8N4
reactant | hydrochloric acid | 1.67 ml | Cl | ClH
solvent | triethylorthoformate | 100 ml | C(C)OC(OCC)OCC | C7H16O3
product | 5-(4-Pyridyl)imidazo[1,2-a]pyrimidine, hydrochloride | 0.47 g | Cl.N1=CC=C(C=C1)C1=CC=NC=2N1C=CN2 | InChI=1S/C11H8N4.ClH/c1-4-12-5-2-9(1)10-3-6-13-11-14-7-8-15(10)11;/h1-8H;1H
